US05691351
A mixture of ketal intermediate (2.8 g, 17.7 mmol) and phenol (5.64 g, 60 mmol) in dioxane (10 mL) and water (10 mL) at 0° C. was treated dropwise with conc. H2SO4 (20 mL). The mixture was allowed to warm to room temperature and stirred at this temperature for the next 6 h. The reaction mixture was then poured into ice-water and extracted with ethyl acetate. The acetate layer was washed with water, brine, dried with anhydrous MgSO4 and concentrated in vacuo to provide 4,4-bis(4-hydroxyphenyl)cyclohexanol (5 g) contaminated with phenol.

reactant | phenol | 60 mmol, 5.64 g | C1(=CC=CC=C1)O | C6H6O
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 4,4-bis(4-hydroxyphenyl)cyclohexanol | 5 g | OC1=CC=C(C=C1)C1(CCC(CC1)O)C1=CC=C(C=C1)O | C18H20O3
